Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tylenol / Endocet / shellfish derived / hazzelnut
 
Attending: ___.
 
Chief Complaint:
Neck pain, weakness 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: History obtained with assistance from ___ interpreter. 

Ms. ___ is a ___ yo woman with PMH of HTN/HLD presenting with
left neck pain and generalized weakness. 

She was recently discharged from ___ after an admission for a
viral illness which causes nausea and vomiting but has had
persistent weakness and anorexia. She denies fevers/chills,
n/v/d/abd pain, urinary sx, cp/SOB/cough, but says she has had
minimal appetite for weeks and has been constipated for a few
days. She notes that she does not feel at all confused at this
time but did have some confusion after her last admission. She
states that sometimes when walking she feels generally weak with
some dizziness and a feeling of numbness in her legs. 

Her primary complaint today is anterior left neck pain x3 days
which is sometimes associated with weakness in her left arm. 
She says that the neck pain started about one week ago and is in
able to point to a precipitating factor like exercise, lifting
heavy things, etc. She denies headaches, vision changes, or 
other
associated sx. She reports that she came into the hospital
instead of going to her PCP for this because she thought it was
severe enough to go to the hospital and because her family was
worried about her, especially since she has lost weight over the
last month. She thinks she lost weight because of the impact her
recent viral illness had on PO intake. 

Per report, the patient has been persistently failing at home
leading to repeated hospital admissions despite having a ___.  

In ED, initial vitals 98.2 101 149/79 16 100% RA. Received GI
cocktail, 1L NS, 600mg ibuprofen. CXR showed mild bronchial wall
thickening possibly reflected reactive airway disease with no
focal consolidation. EKG NSR rate 98 with LBBB and LVH. Bcx and
Ucx obtained. WBC 12.2, Hgb 10.3 Lactate 1.2, Chem 7/LFTs
unremarkable, trop negative x1. Guaiac negative on exam. 

Vitals on transfer: 98.2 92 136/81 16 98% RA 

ROS: As per HPI, all systems reviewed and otherwise negative. 
 
Past Medical History:
-HTN
-Arthritis
-Gait abnormality/hx of falls

PSH: C-section x1, bilateral TKR ___ years ago, R shoulder
surgery, cataracts
 
Social History:
___
Family History:
Father died of ___, mother died at ___ of
unknown causes. Brother had tetanus as a child. Grandmother had
unknown cancer. Brother had ulcer. 
 
Physical Exam:
Admission Physical Exam:
VS: 98.3 94 150/64 18 98%RA 
General: Well appearing woman sitting up in bed in NAD
Eyes: PERLL, EOMI, sclera anicteric
ENT: MMM, oropharynx clear without exudate or lesions. 
Neck: Tender to palpation near angle of mandible on the left. No
bruit or thrill. Nontender over cervical spine without notable
step offs. Negative Spurling's test bilaterally. Nontender over
trapezius. Slightly limited neck rotation to left due to
discomfort but full neck flexion/extension/rotation otherwise. 
Lymph: No supraclavicular or cervical lymphadenopathy
Respiratory: CTAB without crackles, wheeze, rhonchi. 
Cardiovascular: RRR, normal S1 and S2, +S4, no murmurs, rubs or
gallops
Gastrointestinal: Soft, nontender, nondistended, +BS, no masses
or HSM
Extremities: Warm and well perfused, no peripheral edema 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, CN2-12 intact, ___ strength
in UE and ___ bilaterally. 

Discharge Physical Exam:
Physical Exam:
VS: 98.2 93 165/85 16 98%RA 
General: Well appearing woman sitting up in bed in NAD
Eyes: PERLL, EOMI, sclera anicteric
ENT: MMM, oropharynx clear without exudate or lesions. 
Neck: Nontender to palpation
Respiratory: CTAB without crackles, wheeze, rhonchi. 
Cardiovascular: RRR, normal S1 and S2, +S4, no murmurs, rubs or
gallops
Gastrointestinal: Soft, nontender, nondistended, +BS, no masses
or HSM
Extremities: Warm and well perfused, no peripheral edema 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, motor and sensory exam 
grossly intact 
 
Pertinent Results:
ADMISSION LABS:

___ 01:00AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 11:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:20PM   LACTATE-1.2
___ 08:23PM   GLUCOSE-118* UREA N-15 CREAT-0.9 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-26 ANION GAP-16
___ 08:23PM   ALT(SGPT)-6 AST(SGOT)-12 ALK PHOS-80 TOT 
BILI-0.3
___ 08:23PM   LIPASE-32
___ 08:23PM   cTropnT-<0.01
___ 08:23PM   ALBUMIN-3.4*
___ 08:23PM   WBC-12.2* RBC-3.76* HGB-10.3* HCT-32.5* 
MCV-86 MCH-27.4 MCHC-31.7* RDW-15.4 RDWSD-49.1*
___ 08:23PM   NEUTS-65.8 ___ MONOS-8.9 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-8.03* AbsLymp-2.88 AbsMono-1.08* 
AbsEos-0.13 AbsBaso-0.03
___ 08:23PM   ___ PTT-32.2 ___

DISCHARGE LABS:

___ 01:05PM BLOOD WBC-9.5 RBC-3.65* Hgb-9.9* Hct-32.1* 
MCV-88 MCH-27.1 MCHC-30.8* RDW-15.6* RDWSD-50.0* Plt ___
___ 05:53AM BLOOD Glucose-100 UreaN-13 Creat-1.0 Na-139 
K-4.6 Cl-105 HCO3-28 AnGap-11
___ 05:53AM BLOOD Calcium-9.0 Phos-3.7 Mg-1.7

MICRO:
___ Ucx negative
___ Bcx pending

IMAGING:
___ CXR
IMPRESSION: 
 
Mild bronchial wall thickening may reflect reactive airways 
disease.  No focal
consolidation identified.

___ C-spine XR
IMPRESSION:
 
 
1. Severe degenerative changes of the cervical spine with 
degenerative disc
disease at C5-6 to C7-T1 levels.
2. 1.2 cm well-defined focus of calcification overlying the soft 
tissues and
projecting to the right of the midline at C4 level is of unknown 
etiology. 
Further evaluation by a CT of the neck may be performed only as 
clinically
relevant.

___ C-spine CT without con
IMPRESSION:
 
 
1. Right humeral implant streak artifact limits examination.
2. Bilateral carotid artery atherosclerosis, right greater than 
left, as
described.  Question if right carotid bifurcation dense 
calcification
corresponds to area of calcific density on recent cervical spine 
x-ray.
3. Multilevel cervical spine degenerative changes as described, 
including
moderate severe loss of disc height from C5-T1.  If clinically 
indicated,
consider cervical spine MRI for further evaluation.
4.  Within the limits of this noncontrast study, there is no 
definite evidence
of cervical mass.
 
Brief Hospital Course:
___ yo woman with PMH of HTN/HLD presenting with left neck pain 
and generalized weakness.      

#Neck pain: One week of neck pain without clear etiology as no
clear precipitating factors. Patient had recent viral illness 
but
denies f/c, n/v, headache, vision changes, other neurologic
changes which would be concerning for meningitis so no need for
LP. Pain is focal on left side of neck without
notable exam findings. Pt reports intermittent arm weakness but
neurological exam completely intact, Spurling test negative, no
point tenderness over spine or signs of spinal injury. No bruit
or thrill no raise concern for vascular abnormality, no mass or
lymphadenopathy to raise concern for infection. XR and CT of 
C-spine show severe cervical DJD as well as calcification of 
carotids R>L. Pain improved with ibuprofen and home tramadol on 
which she was discharged, may benefit from longstanding tx with 
COX-2 inhibitor as allergic to APAP. 

#Weakness/anorexia/gait abnormality: Exam relatively 
unremarkable, patient mentating well, but appears to
be failing at home based on multiple recent admissions. Poor PO
intake appears to be slow recovery from recent viral illness, 
but
could be part of overall subacute decline. Continued on home 
mirtazapine. Evaluated by nutrition who felt that patient has 
good diet but would benefit from Ensure supplementation. 
Evaluated by ___ who cleared patient for home without additional 
services. In conversation with patient, daughter, and social 
work, team able to get collateral information that patient has 
numerous services at home through elder services and daughter is 
considering applying for assisted living but has been anxious 
about mother's ability to function at home. Overall, patient is 
largely healthy, cognitive intact, and safe to ambulate on her 
own. Will benefit from maximal services available from elder 
services but is largely functioning well with good supports. 

#HTN: EKG with LBBB and LVH, exam notable for S4 making some end
organ damage from longstanding hypertension likely. Chem 7 wnl. 
Stable on home losartan. 
 Will follow up with PCP regarding HTN management, consideration 
of TTE, and ophthalmology f/u given evidence of end organ 
damage. 

#GERD: Stable on home omeprazole

#Anemia: Hgb 10.3->9.4 with unclear baseline. Likely ___ 
dilution as all cell lines down. Patient on home iron 
supplementation and aware of anemia. Will need ongoing 
outpatient monitoring, discharged with home iron 
supplementation. 

Transitional issues:
-Found to have extensive DJD of the cervical spine. Would 
consider outpatient discussion of longterm medications such as 
COX-2 inhibitors. 
-Extensive calcification of the right carotid bifurcation with 
less significant left carotid calcification seen on CT C-spine. 
Follow up with PCP. 
-Patient and family interested in referral to geriatrics for 
ongoing primary care. 
-Patient would benefit from maximal resources from elder 
services including access to nutritional supplementation 
-Given LVH on EKG and S4 on exam, may benefit from outpatient 
TTE for evaluation of structural heart disease. Additionally 
would benefit from ophthalmology eval as outpatient given 
evidence of end organ damage from HTN. 
#Code Status: DNR, ok to intubate (confirmed)
#Contact: ___ daughter ___ ___, son ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcitrate (calcium citrate) 200 mg (950 mg) oral BID 
2. Ferrous GLUCONATE 324 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. Magnesium Oxide 250 mg PO DAILY 
5. Mirtazapine 15 mg PO QHS 
6. Omeprazole 20 mg PO DAILY 
7. TraMADol 50 mg PO TID:PRN Pain - Moderate 
8. Ascorbic Acid ___ mg PO DAILY 
9. Vitamin D ___ UNIT PO EVERY 2 WEEKS (___) 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*32 Tablet Refills:*0 
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Calcitrate (calcium citrate) 200 mg (950 mg) oral BID  
5.  Ferrous GLUCONATE 324 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  Magnesium Oxide 250 mg PO DAILY  
8.  Mirtazapine 15 mg PO QHS  
9.  Omeprazole 20 mg PO DAILY  
10.  TraMADol 50 mg PO TID:PRN Pain - Moderate  
11.  Vitamin D ___ UNIT PO EVERY 2 WEEKS (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Neck pain

Secondary: Weakness, anorexia, gait abnormality 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for weakness and neck pain. You were 
found to have significant arthritis of the neck which is the 
likely source of your pain. Your pain improved rapidly with 
anti-inflammatory medication. You were evaluated by nutrition, 
physical therapy, and social work to ensure that you are safe at 
home. You should follow up with your primary doctor and elder 
services to ensure that you are receiving all available 
services. 

It was a pleasure caring for you,

Your ___ Care Team  
 
Followup Instructions:
___